US04705853
2-(2-Chloroethyl)-2,3-dihydro-4-methyl-7-phenylpyrido[3,2-f]-1,4-oxazepine-5(4H)-thione
The entire portion of the above sodium salt was added ~400 ml of thionyl chloride slowly (reaction was slightly exothermic) and stirred at room temperature for 10 minutes. The thionyl chloride was removed by rotary evaporation at 70° C. and the residue azeotroped once with toluene. The residue was suspended in 600 ml of methylene chloride and to the suspension was added diisopropylethylamine cautiously until the solution was basic. The reaction solution was washed with 3×200 ml of 1N hydrochloric acid and 3×200 ml of 1N sodium hydroxide, dried over sodium sulfate, filtered, concentrated by rotary evaporation, taken up in toluene, charcoaled twice and concentrated by rotary evaporation. The residue (60 g) was taken up in ethyl acetate and passed through a short bed of silica gel using 25% hexane-75% ethyl acetate as the eluant. Similar fractions were combined to give ~25 g of crude (but 95% (min)) purity oil which is 2-(2-chloroethyl)-2,3-dihydro-4-methyl-7-phenylpyrido[3,2-f] -1,4-oxazepin-5(4H)-one. To 12.5 g (0.04 mole) of the above amide was added 125 ml of toluene and 16 g (0.04 mole) of 2,4-bis(4-methoxyphenyl)-1,3-dithio-2,4-diphosphotane-2,4-disulfide. The reaction mixture was heated to reflux for 4 hr. After standing overnight, the toluene was decanted off, washed with 3×100 ml of 1N sodium hydroxide, dried over sodium sulfate, filtered, and concentrated by rotary evaporation. The residue was further purified by column chromatography using silica gel as the stationary phase and eluting with ethyl acetate: hexane 1:1, (v/v). Like fractions were combined and concentrated giving 8.5 g (64%) of desired product, m.p. 156°-58° C.

reactant | sodium | [Na] | Na
reactant | thionyl chloride | ~400 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(2-chloroethyl)-2,3-dihydro-4-methyl-7-phenylpyrido[3,2-f] -1,4-oxazepin-5(4H)-one | ClCCC1OC2=C(C(N(C1)C)=O)C=C(C=N2)C2=CC=CC=C2 | C17H17ClN2O2
solvent | toluene | 125 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-Chloroethyl)-2,3-dihydro-4-methyl-7-phenylpyrido[3,2-f]-1,4-oxazepine-5(4H)-thione | 8.5 g, 64% | ClCCC1OC2=C(C(N(C1)C)=S)C=C(C=N2)C2=CC=CC=C2 | C17H17ClN2OS
